US04906621
At 0°, 9.4 ml acetic anhydride is added to a stirred solution of 13.5 g of ethyl 4-(2-hydroxyethyl)-piperidine-2-carboxylate in 75 ml pyridine. After stirring at room temperature for 30 minutes the solution is concentrated in vacuo and ethyl acetate (300 ml) is added; the solution is washed twice with 2N hydrochloric acid, once with water and once with saturated sodium bicarbonate, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is dissolved in 100 ml ethanol, 5 g of powdered potassium carbonate is added and the mixture stirred 1 hour at room temperature. The solution is filtered, concentrated in vacuo and purified by flash chromatography using methylene chloride/methanol (95:5) to yield trans ethyl 1-acetyl-4-(2-hydroxyethyl)-piperidine-2-carboxylate.

reactant | acetic anhydride | 9.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 4-(2-hydroxyethyl)-piperidine-2-carboxylate | 13.5 g | OCCC1CC(NCC1)C(=O)OCC | C10H19NO3
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | trans ethyl 1-acetyl-4-(2-hydroxyethyl)-piperidine-2-carboxylate | C(C)(=O)N1[C@H](C[C@@H](CC1)CCO)C(=O)OCC | C12H21NO4
